US04421550
2-[[(1-Ethyl-5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
To a stirred mixture of 1.0 gram (0.0027 mole) of methyl 2-[(5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonylbenzoate and 0.7 grams of potassium carbonate in 30 ml of acetone at room temperature, 0.8 ml of ethyl iodine was added by way of syringe and the resulting white suspension stirred 3 days. The mixture was poured into 250 ml of ice water and acidified to pH 3-4 with glacial acetic acid. The aqueous acidic mixture was extracted with 1:1 mixture of ethyl ether/ethyl acetate and the extract washed with brine, dried (MgSO4), and evaporated to yield a white solid residue which was suspended in acetonitrile and filtered, yield 0.3 grams, m.p. 188°-191°.

reactant | methyl 2-[(5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonylbenzoate | 0.0027 mole, 1.0 gram | CSC1=NC(=NN1)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C12H13N5O5S2
reactant | potassium carbonate | 0.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodine | 0.8 ml | C(C)I | C2H5I
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[[(1-Ethyl-5-methylthio-1H-1,2,4-triazol-3-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | C(C)N1N=C(N=C1SC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H17N5O5S2
